US07572811B2
To a solution of tert-butyl 4-[6-(4-cyclohexyl-3-trifluoromethyl-phenoxymethyl)-pyridin-3-yl]-piperazine-1-carboxylate (0.021 mmol) in DCM (1 mL) is added trifluoroacetic acid (2 mL). The reaction mixture is stirred at room temperature for 1 hour and evaporated to dryness. The residue is mixed with tert-butyl acrylate (0.3 mmol) and DIEA (0.6 mmol) in MeOH (1.5 mL). The mixture is heated in a microwave oven at 90° C. for 30 minutes and evaporated to dryness. To a solution of the residue in DCM (1.5 mL) is added trifluoroacetic acid (1.5 mL). The reaction mixture is stirred at room temperature for 1 hour. After concentration, the crude residue is purified by preparative RP LC-MS to give 3-{4-[6-(4-Cyclohexyl-3-trifluoromethyl-phenoxymethyl)-pyridin-3-yl]-piperazin-1-yl}-propionic acid. 1H NMR (400 MHz, CD3OD) δ 1.18-1.79 (10H), 2.75 (t, J=11.2 Hz, 1H), 2.80 (t, J=6.8 Hz, 2H), 3.37-3.78 (8H), 3.43 (t, J=6.8 Hz, 2H), 5.16 (s, 2H), 7.13 (dd, J=8.4, 2.8 Hz, 1H), 7.15 (s, 1H), 7.39 (d, J=8.4 Hz, 1H), 7.66 (d, J=8.8 Hz, 1H), 7.75 (dd, J=8.8, 2.8 Hz, 1H), 8.30 (s, 1H); ESI-MS m/z 492.2 (MH+).

reactant | tert-butyl 4-[6-(4-cyclohexyl-3-trifluoromethyl-phenoxymethyl)-pyridin-3-yl]-piperazine-1-carboxylate | 0.021 mmol | C1(CCCCC1)C1=C(C=C(OCC2=CC=C(C=N2)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C(F)(F)F | C28H36F3N3O3
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl acrylate | 0.3 mmol | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | DIEA | 0.6 mmol | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1.5 mL | CO | CH4O
product | 3-{4-[6-(4-Cyclohexyl-3-trifluoromethyl-phenoxymethyl)-pyridin-3-yl]-piperazin-1-yl}-propionic acid | C1(CCCCC1)C1=C(C=C(OCC2=CC=C(C=N2)N2CCN(CC2)CCC(=O)O)C=C1)C(F)(F)F | C26H32F3N3O3
